US06872720B2
To 3-(2-fluorophenyl)-4-hydroxy-5-methyl-5H-furan-2-one (18.7 g, 90 mmol) in ethanol (90 ml) was added hydrazine hydrate (24 ml, 0.45 mol), and the mixture was stirred at reflux for 3 days. The solution was concentrated to approximately 30 ml, and was then stirred at 90° C. for 1 week. Hydrazine hydrate (24 ml, 0.45 mol) was added, and the mixture was stirred at 90° C. for another week. More hydrazine hydrate (24 ml, 0.45 mol) was added, and the solution was stirred as before for 1 week, and was then allowed to concentrate to approximately 30 mL Ethanol (90 ml) and hydrazine hydrate (24 ml, 0.45 mol) were added, and the mixture was heated at reflux for 1 week. The solvent was removed in vacuo, yielding a glassy foam. This was suspended in dichloromethane (200 ml) and tosyl chloride (20.4 g, 0.107 mol) and triethylamine (16.3 ml, 0.165 mol) were added at 5° C. The solution was allowed to warm to room temperature and was stirred overnight. The mixture was washed with saturated sodium chloride solution (1×100 ml), dried over magnesium sulfate, and was then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (20 to 50% ethyl acetate in dichloromethane, UV detection), yielding toluene-4-sulfonic acid 4-(2-fluorophenyl)-5-(1-hydroxyethyl)-1H-pyrazol-3-yl ester as a yellow glass, which solidified upon standing (17.6 g). 1H NMR (400 MHz, CDCl3) δ 1.33 (3H, d, J=6.6 Hz), 2.38 (3H, s), 5.01 (1H, q, J=6.6 Hz), 6.98 (1H, m), 7.11 (3H, m), 7.27 (2H, m), 7.80 (2H, d, J=8.3 Hz), 10.30 (1H, br s); MS (ES+) m/e 377 [MH]+.

reactant | 3-(2-fluorophenyl)-4-hydroxy-5-methyl-5H-furan-2-one | 90 mmol, 18.7 g | FC1=C(C=CC=C1)C=1C(OC(C1O)C)=O | C11H9FO3
reactant | hydrazine hydrate | 0.45 mol, 24 ml | O.NN
reactant | Hydrazine hydrate | 0.45 mol, 24 ml | O.NN
reactant | hydrazine hydrate | 0.45 mol, 24 ml | O.NN
reactant | hydrazine hydrate | 0.45 mol, 24 ml | O.NN
reactant | tosyl chloride | 0.107 mol, 20.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 0.165 mol, 16.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Ethanol | approximately 30 mL | C(C)O | C2H6O
product | toluene-4-sulfonic acid 4-(2-fluorophenyl)-5-(1-hydroxyethyl)-1H-pyrazol-3-yl ester | FC1=C(C=CC=C1)C=1C(=NNC1C(C)O)OS(=O)(=O)C1=CC=C(C=C1)C | C18H17FN2O4S
